US05439917
2-Methoxymethyl-3-methyl-7-phenacyl pyrrolo[2,3-b]pyridine. Hydrochloride.
A solution of 0,13 g (0,74 mmol) 2-methoxymethyl-3-methylpyrrolo[2,3 -b]pyridine and 0,16 g (1,1 mmol) phenacyl chloride in 20 ml acetonitrile was refluxed for 15 h. Working up in the same manner as ex. 17 gave 0,05 g (20%) of the title compound.

reactant | 2-methoxymethyl-3-methylpyrrolo[2,3 -b]pyridine | 0,74 mmol, 0,13 g | COCC1=C(C=2C(=NC=CC2)N1)C | C10H12N2O
reactant | phenacyl chloride | 1,1 mmol, 0,16 g | C(C(=O)C1=CC=CC=C1)Cl | C8H7ClO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-Methoxymethyl-3-methyl-7-phenacyl pyrrolo[2,3-b]pyridine. Hydrochloride | 0,05 g, 20% | Cl.COCC1=C(C=2C(N(C=CC2)CC(=O)C2=CC=CC=C2)=N1)C | InChI=1S/C18H18N2O2.ClH/c1-13-15-9-6-10-20(18(15)19-16(13)12-22-2)11-17(21)14-7-4-3-5-8-14;/h3-10H,11-12H2,1-2H3;1H
